US07465731B2
A solution of 2N HCl-EtOH solution (3.4 ml) was added to a mixture of (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (620 mg) in EtOH (5 ml) and stirred at 20-25° C. for 2 hours. IPE (20 ml) was added to a reaction mixture and the resultant mixture was stirred at ambient temperature for 20 minutes. The precipitate was collected by filtration to give (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-hydroxyacrylamide dihydrochloride (500 mg).

reactant | HCl EtOH | 2N, 3.4 ml | Cl.CCO
reactant | (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 620 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C1CCCC1)\C=C(\C(=O)NOC1OCCCC1)/F | C22H30ClFN4O3
solvent | EtOH | 5 ml | CCO | C2H6O
product | (2Z)-3-(5-chloro-6-{[(3R)-1-cyclopentyl-3-pyrrolidinyl]amino}-3-pyridinyl)-2-fluoro-N-hydroxyacrylamide dihydrochloride | 500 mg | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CN(CC1)C1CCCC1)\C=C(\C(=O)NO)/F | InChI=1S/C17H22ClFN4O2.2ClH/c18-14-7-11(8-15(19)17(24)22-25)9-20-16(14)21-12-5-6-23(10-12)13-3-1-2-4-13;;/h7-9,12-13,25H,1-6,10H2,(H,20,21)(H,22,24);2*1H/b15-8-;;/t12-;;/m1../s1
